US09376422B2
To stirred solution of 2,5-dichloro-3-nitrobenzoic acid (3.2 g, 13.67 mmol) in DMF (30 mL) was added sodium carbonate (4.3 g, 40.56 mmol) and methyl iodide (9.7 g, 68.30 mmol). The reaction mixture was heated at 60° C. for 18 h. On completion, water was added to the reaction mixture, and the product was extracted using DCM. The combined organic layers were dried and concentrated under reduced pressure to give methyl 2,5-dichloro-3-nitrobenzoate (3 g, 90%).

reactant | 2,5-dichloro-3-nitrobenzoic acid | 13.67 mmol, 3.2 g | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | sodium carbonate | 40.56 mmol, 4.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 68.30 mmol, 9.7 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 2,5-dichloro-3-nitrobenzoate | 3 g, 90% | ClC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])Cl | C8H5Cl2NO4
